US05246931
Step A: N-(Benzyloxycarbonyl-3-methylenecyclobutanamine
To a stirred solution of 26.7 g (238 mmol) of 3-methylenecyclobutane carboxylic acid (Cripps, H. N.; Williams, J. K.; Sharkey, W. H. J. Am. Chem. Soc. 1959, 81, 2723-2728) in 100 mL of toluene at 0° C. was added 36.4 mL (262 mmol) of triethylamine and then 72.1 g (262 mmol) of diphenylphosphoryl azide. The reaction mixture was then heated at 80° C., and after 1 h, 28.33 g (262 mmol) of benzyl alcohol was added. After 15 h at 85° C., the cooled reaction mixture was poured into 1 L of ether, washed with saturated aqueous NaHCO3, and then saturated aqueous NaCl, dried over MgSO4, and then concentrated under reduced pressure. Chromatography of the residue in three portions on 1400 g of silica gel with 80:20/hexane:EtOAc afforded 35.4 g (63%) of the desired compound.

reactant | 3-methylenecyclobutane carboxylic acid | 238 mmol, 26.7 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | triethylamine | 262 mmol, 36.4 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 262 mmol, 72.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 262 mmol, 28.33 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 1 L | CCOCC | C4H10O
product | Benzyloxycarbonyl-3-methylenecyclobutanamine | 35.4 g, 63% | C(C1=CC=CC=C1)OC(=O)C1(CC(C1)=C)N | C13H15NO2
